US07361677B2
4-[(3-Bromo-propyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02180, STX595)
Sodium hydride (60%, 240 mg, 6.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (926 mg, 5.0 mmol) in DMSO (25 mL) at r.t. The mixture was stirred for 1 hour at this temperature and 1,3dibromopropane (5 mL) was added. The reaction mixture was stirred overnight and ethyl acetate (100 mL) was added. The mixture was transferred into a separation funnel and extracted with water (twice 100 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure (water bath temperature <30° C.). The resulting orange oil was mixed with diethyl ether (100 mL) and filtered through a layer of silica (ca. 5 cm). The silica was washed with more diethyl ether (ca. 100 mL) to remove the excess of 1,3-dibromopropane, the crude product was washed from the silica with acetone (120 mL). The acetone solution was concentrated under reduced pressure and the residue was purified by column-chromatography (eluent: ethyl acetate) to give the title compound as a white solid. Yield: 792 mg (52%). 1H-NMR (400 MHz, d6-DMSO) δ=2.01 (tt, J=7.0, 6.6 Hz, 2H), 3.64 (t, J=6.6 Hz, 2H), 3.95 (t, J=7.0 Hz, 2H), 6.62 (d, J=9.0 Hz, 2H), 7.74 (d, J=9.0 Hz, 2H), 9.02 (s, 2H). 13C-NMR (100 MHz, d6-DMSO) δ=30.38, 32.13, 52.72, 103.17, 113.83, 119.74, 134.63, 144.14, 151.65. LRMS (FAB+): 306.0 (100, [M+H]+).

reactant | Sodium hydride | 6.0 mmol, 240 mg | [H-].[Na+]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 5.0 mmol, 926 mg | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | 1,3dibromopropane | 5 mL | BrCCCBr | C3H6Br2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 4-[(3-Bromo-propyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | BrCCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C12H12BrN5
